US09227984B2
2-Amino-4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-6-chloropyrimidine-5-carboxaldehyde
To a suspension of 2-amino-4,6-dichloropyrimidine-5-carboxaldehyde (3.84 g, 20 mmol) and DIPEA (5.2 mL, 30 mmol) in DMF was added tert-butyl piperazine-1-carboxylate (3.73 g, 20 mmol) portionwise. The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated and the residue obtained was precipitated with H2O. The precipitate was collected, washed with water and dried in vacuo, to provide the title compound as a white solid in quantitative yield. MS (m/z) 342 [M+H]+.

reactant | 2-amino-4,6-dichloropyrimidine-5-carboxaldehyde | 20 mmol, 3.84 g | NC1=NC(=C(C(=N1)Cl)C=O)Cl | C5H3Cl2N3O
reactant | DIPEA | 30 mmol, 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl piperazine-1-carboxylate | 20 mmol, 3.73 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-6-chloropyrimidine-5-carboxaldehyde | quantitative yield | NC1=NC(=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C=O)Cl | C14H20ClN5O3
